US04757070
5-Acetoxymethyl-4-methoxymethyl-beta-carboline-3-carboxylic acid ethyl ester
90% Azodicarboxylic acid diethyl ester (76 ml) without addition of heat with stirring is added drop by drop to a solution of 5-acetoxymethyl-4-methoxymethyl-1,2,3,4-tetrahydro-beta-carboline-1,3-dicarboxylic acid-3-ethyl ester (75 g) in oxygen-free dichloromethane (0.6 l) under argon protection. The temperature rises about 10° C. Reflux is performed for about 9 hours, then the mixture is left at room temperature for 60 hours. The precipitate is suctioned off, further end product can be obtained from the evaporated mother liquor after chromatography on silica gel with a mixture of dichloromethane (95%) with methanol (5%). Altogether 65 g of the title compound in the form of colorless crystals with a melting point of 129°-133° C. is obtained.

reactant | Azodicarboxylic acid diethyl ester | 76 ml | C(C)OC(=O)N=NC(=O)OCC | C6H10N2O4
reactant | 5-acetoxymethyl-4-methoxymethyl-1,2,3,4-tetrahydro-beta-carboline-1,3-dicarboxylic acid-3-ethyl ester | 75 g | C(C)OC(=O)C1NC(C=2NC3=CC=CC(=C3C2C1COC)COC(C)=O)C(=O)O | C20H24N2O7
reactant | dichloromethane | ClCCl | CH2Cl2
reactant | methanol | CO | CH4O
solvent | oxygen | 0.6 l | O=O | O2
product | 5-Acetoxymethyl-4-methoxymethyl-beta-carboline-3-carboxylic acid ethyl ester | 65 g | C(C)OC(=O)C=1N=CC=2NC3=CC=CC(=C3C2C1COC)COC(C)=O | C19H20N2O5
